### PR TITLE
A Bounded Capacity Generalization of the Classic n-Queens Problem

### PR DESCRIPTION
**Pull request by LucDuponcheelAtGitHub**
Ok, I first decided to go for 
"this issue is up for grabs: I would like to see this conjecture added by somebody else",
but now I go for a pull request anyway

### CODE REVIEW

**Comment by LucDuponcheelAtGitHub** [comment]
Ok, "Merging is blocked", I hope that "At least 1 approving review" will unlock

**Comment by LucDuponcheelAtGitHub** [comment]
In fact, it suffices to prove the conjecture for co-prime _n_ and _c_ , since, if not, and if  _g_ is their greatest common divisor, then tensor multiplying an all 1 matrix of size _g_ with an _n/g_ - queens solution yields a valid "structured" solution. I also think that a "superposition of c shifted _n/g_ - queens solutions" could be useful to find "structured" solutions. Anyway, the `Lean` code that comes with my corresponding issue #4177 goes for an iterative random min-conflict solution.

**Comment by LucDuponcheelAtGitHub** [comment]
Now I see I had two files, 
one in the main FormalConjectures directory
and
one in the  FormalConjectures/Other directory.

Once again, sorry, I am a GitHub contributor newbie.

I removed the former one (i.e. only kept the latter one).

Hopefully this will lead to a workflow approval (and, ideally, an approving review).

Thanks in advance ...

Luc Duponcheel

File: FormalConjectures/Other/Duponcheel.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/Other/Duponcheel.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Data.Matrix.Basic
+import Mathlib.Data.Fin.Basic
+
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean]:
```suggestion
```

File: FormalConjectures/Other/Duponcheel.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+namespace DuponcheelConjecture
+
+variable {n : ℕ} (hn : n ≥ 4) {c : ℕ} (hc : c ≤ n)
+
+/--
+Coins on an `n × n` board, represented as a boolean matrix.
+  `true`  indicates a  coin being present
+  `false` indicates no coin being present
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean:43]: Generally we put the statement of the conjecture in the docstring of the statement rather than in the module docstring.

File: FormalConjectures/Other/Duponcheel.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean:27]:
```suggestion
```

File: FormalConjectures/Other/Duponcheel.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+limitations under the License.
+-/
+
+import Mathlib.Data.Matrix.Basic
+import Mathlib.Data.Fin.Basic
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Duponcheel's Generalized n-Queens Conjecture
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean:20]: Have you considered asking this question on Mathoverfow? This could be a nice way to gage the difficulty of the problem and could lead to interesting answers from the Mathematical community.
You could then link the mathoverflow question here.

File: FormalConjectures/Other/Duponcheel.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+
+/--
+Coins on an `n × n` board, represented as a boolean matrix.
+  `true`  indicates a  coin being present
+  `false` indicates no coin being present
+-/
+
+@[category research open, AMS 5]
+theorem n_c_coins_placement_conjecture : answer(sorry) ↔
+    ∃ (BoolBoard : Matrix (Fin n) (Fin n) Bool),
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean]: Here how about quantifying over matrices of natural numbers with the predicate that the entries are at most 1?

File: FormalConjectures/Other/Duponcheel.lean [hunk 7]
```diff
@@ -0,0 +1,74 @@
...
+      ∀ i : Fin n, rc i ≤ c ∧
+      -- Each column count is less than or equal to `c`
+      ∀ i : Fin n, cc i ≤ c ∧
+      -- Each downward diagonal count is less than or equal to `c`
+      ∀ k : ℕ, ddc k ≤ c ∧
+      -- Each upward diagonal count is less than or equal to `c`
+      ∀ k : ℤ, udc k ≤ c ∧
+      -- The board count is equal to `n * c`.
+      bc = n * c
+  := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Other/Duponcheel.lean]:
```suggestion
      bc = n * c  := by 
  sorry
```

**Review by Paul-Lez — COMMENTED** [review]
A few stylistic nits - I'll do another pass on the maths later on!

File: FormalConjectures/Other/Duponcheel.lean (hunk 6 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Other/Duponcheel.lean]: Well, I used Bool so that there are only 2 possibilities, 1 or 0, in order to avoid placing more that one coin at a position. I agree that this makes the theorem somewhat cumbersome.

File: FormalConjectures/Other/Duponcheel.lean (hunk 7 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Other/Duponcheel.lean]: done in via my fork

File: FormalConjectures/Other/Duponcheel.lean (hunk 6 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Other/Duponcheel.lean]: I incorporated your valuable suggestion, thanks

File: FormalConjectures/Other/Duponcheel.lean (hunk 5 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Other/Duponcheel.lean:20]: Yes, see https://mathoverflow.net/questions/510135/placing-n-cdot-m-coins-on-an-n-times-n-board-generalizing-the-n-queens-p

Comment (Paul-Lez) [reply FormalConjectures/Other/Duponcheel.lean:20]: Great! In that case we might as well move the file to the Mathoverflow section of the repo!

Comment (Paul-Lez) [reply FormalConjectures/Other/Duponcheel.lean:20]: Would you mind also linking the MO question in the references?

Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Other/Duponcheel.lean:20]: The file is now in Mathoverflow with an appropriate name (510135.lean) and a link to MO question in the references. The other file in Others is deleted.

File: FormalConjectures/Mathoverflow/510135.lean [hunk 8]
```diff
@@ -0,0 +1,72 @@
...
+      -- Each row count is less than or equal to `c`
+      ∀ i : Fin n, rc i ≤ c ∧
+      -- Each column count is less than or equal to `c`
+      ∀ i : Fin n, cc i ≤ c ∧
+      -- Each downward diagonal count is less than or equal to `c`
+      ∀ k : ℕ, ddc k ≤ c ∧
+      -- Each upward diagonal count is less than or equal to `c`
+      ∀ k : ℤ, udc k ≤ c ∧
+      -- The board count is equal to `n * c`.
+      bc = n * c
```
Comment (Paul-Lez) [inline FormalConjectures/Mathoverflow/510135.lean]: (otherwise, quantifiers leak)
```suggestion
      (∀ i j : Fin n, 0 ≤ board i j ∧ board i j ≤ 1) ∧
      -- Each row count is less than or equal to `c`
      (∀ i : Fin n, rc i ≤ c) ∧
      -- Each column count is less than or equal to `c`
      (∀ i : Fin n, cc i ≤ c) ∧
      -- Each downward diagonal count is less than or equal to `c`
      (∀ k : ℕ, ddc k ≤ c) ∧
      -- Each upward diagonal count is less than or equal to `c`
      (∀ k : ℤ, udc k ≤ c) ∧
      -- The board count is equal to `n * c`.
      bc = n * c
```

Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Mathoverflow/510135.lean]: Ok, fair enough

File: FormalConjectures/Mathoverflow/510135.lean [hunk 9]
```diff
@@ -0,0 +1,73 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Duponcheel's Generalized n-Queens Conjecture
+# (replacing the traditional n-queens problem with a coin placement problem)
+
+*References:*
+- [mathoverflow/513435](https://mathoverflow.net/questions/510135)
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]:
```suggestion
- [mathoverflow/510135](https://mathoverflow.net/questions/510135)
```

File: FormalConjectures/Mathoverflow/510135.lean [hunk 10]
```diff
@@ -0,0 +1,73 @@
...
+it is always possible to place `n * c` coins on an `n × n` board such that
+no row, column, upward diagonal, or downward diagonal
+contains more than `c` coins.
+Each cell can hold at most 1 coin.
+
+This generalizes the traditional n-queens problem
+(which corresponds to `c = 1`).
+-/
+
+namespace Mathoverflow513435
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]:
```suggestion
namespace Mathoverflow510135
```

File: FormalConjectures/Mathoverflow/510135.lean [hunk 11]
```diff
@@ -0,0 +1,73 @@
...
+      (∀ i : Fin n, cc i ≤ c) ∧
+      -- Each downward diagonal count is less than or equal to `c`
+      (∀ k : ℕ, ddc k ≤ c) ∧
+      -- Each upward diagonal count is less than or equal to `c`
+      (∀ k : ℤ, udc k ≤ c) ∧
+      -- The board count is equal to `n * c`.
+      bc = n * c
+  := by sorry
+
+end Mathoverflow513435
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]:
```suggestion
end Mathoverflow510135
```

File: FormalConjectures/Mathoverflow/510135.lean [hunk 12]
```diff
@@ -0,0 +1,73 @@
...
+  asked by user [*Luc Duponcheel*](https://mathoverflow.net/users/513435/lucdupatstackexchange)
+
+Given `n ≥ 4` and `0 ≤ c ≤ n`,
+it is always possible to place `n * c` coins on an `n × n` board such that
+no row, column, upward diagonal, or downward diagonal
+contains more than `c` coins.
+Each cell can hold at most 1 coin.
+
+This generalizes the traditional n-queens problem
+(which corresponds to `c = 1`).
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]: let's move this to teh docstring of the theorem below. Also: use latex markdown instead of backticks.

File: FormalConjectures/Mathoverflow/510135.lean [hunk 13]
```diff
@@ -0,0 +1,73 @@
...
+      (∀ i : Fin n, rc i ≤ c) ∧
+      -- Each column count is less than or equal to `c`
+      (∀ i : Fin n, cc i ≤ c) ∧
+      -- Each downward diagonal count is less than or equal to `c`
+      (∀ k : ℕ, ddc k ≤ c) ∧
+      -- Each upward diagonal count is less than or equal to `c`
+      (∀ k : ℤ, udc k ≤ c) ∧
+      -- The board count is equal to `n * c`.
+      bc = n * c
+  := by sorry
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]:
```suggestion
  := by 
  sorry
```

File: FormalConjectures/Mathoverflow/510135.lean [hunk 14]
```diff
@@ -0,0 +1,73 @@
...
+contains more than `c` coins.
+Each cell can hold at most 1 coin.
+
+This generalizes the traditional n-queens problem
+(which corresponds to `c = 1`).
+-/
+
+namespace Mathoverflow513435
+
+variable {n : ℕ} (hn : n ≥ 4) {c : ℕ} (hc : c ≤ n)
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]: those should move as for all quantification after the `answer(sorry) ↔`, otherwise the quantization in the `answer(False)` case might be bogus.

**Review by mo271 — COMMENTED** [review]
Thanks for the nice contribution!
Left a few comments.

Adding a small test lemma (e.g., evaluating rc, cc, ddc, udc on an empty board fun _ _ ↦ 0) would serve woudl potentialy serve as good validation of the definitions.

Also potentially one could add test statement instaniated for c = 1?

File: FormalConjectures/Mathoverflow/510135.lean (hunk 14 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Mathoverflow/510135.lean]: Thanks so much Moritz for all your appreciation and suggestions. 

Hopefully the  "3 workflows awaiting approval" and "Review required" will disappear now.

File: FormalConjectures/Mathoverflow/510135.lean [hunk 15]
```diff
@@ -0,0 +1,74 @@
...
+      -- Each column count is less than or equal to `c`
+      (∀ i : Fin n, cc i ≤ c) ∧
+      -- Each downward diagonal count is less than or equal to `c`
+      (∀ k : ℕ, ddc k ≤ c) ∧
+      -- Each upward diagonal count is less than or equal to `c`
+      (∀ k : ℤ, udc k ≤ c) ∧
+      -- The board count is equal to `n * c`.
+      bc = n * c
+  := by
+       sorry
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/510135.lean]:
```suggestion
  := by
  sorry
```

**Comment by mo271** [comment]
@LucDuponcheelAtGitHub Thanks for updating the file!
Can you click "Resolve conversation" for those that are resolved? This makes review easier

File: FormalConjectures/Mathoverflow/510135.lean (hunk 15 above)
Comment (LucDuponcheelAtGitHub) [reply FormalConjectures/Mathoverflow/510135.lean]: Moritz, sorry for all the things I am doing wrong. This is my first pull request. I incorporated your suggestion.

**Comment by LucDuponcheelAtGitHub** [comment]
I requested reviewers to review. I am really curious if my PR is now in a state so that it can be added to the project. I am really thankful for all constructive comments of them.

**Comment by mo271** [comment]
@LucDuponcheelAtGitHub 


> Adding a small test lemma (e.g., evaluating rc, cc, ddc, udc on an empty board fun _ _ ↦ 0) would serve woudl potentialy serve as good validation of the definitions.
> 
> Also potentially one could add test statement instaniated for c = 1?


Would these two things be possible? Note that adding the $c = 1$ would likely mean to factor our some of the defitions into a Prop, so it can be re-used instead of writing it twice. 
We can also do it in a follow up and do it.

**Comment by LucDuponcheelAtGitHub** [comment]
Moritz,

I added tests for (8, 1) , ... , (8, 7) boards satisfying the conjecture. I
hope you find this convincing enough.

FYI:
issue https://github.com/google-deepmind/formal-conjectures/issues/4177
contains the min-conflict based code that I used to generate the (8, 1) , ... , (8, 7) boards
satisfying the conjecture. The code can also be used to test the conjecture up
to relatively large natural numbers (say with n between 300 and 500).

issue https://github.com/google-deepmind/formal-conjectures/issues/4177
also contains Julia code using a purely constructive strategy without backtracking or
ILP solvers that can be used to test the conjecture up to relatively large natural numbers
(say with n between 300 and 500). The code now uses n=128 but feel free to change
it to another natural number.

Cheers, Luc




   __~O
  -\ <,
(*)/ (*)

reality goes far beyond imagination

**Comment by LucDuponcheelAtGitHub** [comment]
> @LucDuponcheelAtGitHub
> 
> > Adding a small test lemma (e.g., evaluating rc, cc, ddc, udc on an empty board fun _ _ ↦ 0) would serve woudl potentialy serve as good validation of the definitions.
> > Also potentially one could add test statement instaniated for c = 1?
> 
> Would these two things be possible? Note that adding the c = 1 would likely mean to factor our some of the defitions into a Prop, so it can be re-used instead of writing it twice. We can also do it in a follow up and do it.

@mo271 

The tests for (8, 1) , ... , (8, 7) boards satisfying the conjecture are a good  validation of the definitions of rc, cc, ddc, udc as well. I  used a utility function to convert a matrix to a readable string format. Hopefully this makes it easier for you to check that a matrix satisfies the conjecture.

**Comment by LucDuponcheelAtGitHub** [comment]
Hello Paul and Moritz. I am sorry to change the code so many times, but I sincerely hope that the changes improve readability for you. For example, I added solution matrices for (8,0) to (8, 8) that Lean tested in comments so that you can test them yourselves. I really hope that the conjecture is now in a state so that it can be approved.

**Comment by LucDuponcheelAtGitHub** [comment]
Hello Paul and Moritz. I have some news. 

My twin brother Marc, also a mathematician, has found, using Deepseek, a paper of 1990 about the (n, c)-coins placement conjecture. See https://sysmath.cjoe.ac.cn/jssc/CN/Y1990/V3/I2/183. It looks like Le Maohua, Li Weixuan and Edward T.Wang found a constructive proof of the conjecture, similar (but much more involved than) the  constructive proof of the n-queens conjecture by E.J, Hoffman, C.Loessi and C. Moore. 

It amazes me that no AI tools other than Deepseek pointed us to that paper. Agreed, it is published in a journal sponsored by the Chinese Academy of Sciences, Strangely enough, it has no citations. 

By the way, I have a Google AI Pro subscription and I am using it to formalize the proof. The proof is tedious (lots of cases) but is proceeding steadily. So far no anomalies have been found in the proof. 

By the way, for my proof I changed the matrix data structure to a position set data structure. Google AI Pro was happy with that change. Remember "Data Structures + Algorithms = Programs" ...or was it the other way round :-) .

**_Anyway, what should I do further?_** .

I also have a "low level" Lean implementation of the construction that produces solutions for very large (n, c). 

```lean
def F_fn (n h s : Nat) : Array (Nat × Nat) := Id.run do
  let mut coords := #[]
  for δ in [1:n+1] do
    for t in [0:h] do
      let col := (2 * δ - 1 + s + t - 1) % n + 1
      coords := coords.push (δ, col)
  return coords

def classic_n_queens (n : Nat) : Array (Nat × Nat) := Id.run do
  let mut seq : Array Nat := #[]
  if n % 6 == 2 then
    for i in [2:n+1:2] do seq := seq.push i
    seq := seq ++ #[3, 1]
    for i in [7:n:2] do seq := seq.push i
    seq := seq.push 5
  else if n % 6 == 3 then
    for i in [4:n:2] do seq := seq.push i
    seq := seq.push 2
    for i in [5:n+1:2] do seq := seq.push i
    seq := seq ++ #[1, 3]
  else
    for i in [2:n+1:2] do seq := seq.push i
    for i in [1:n+1:2] do seq := seq.push i
  let mut coords := #[]
  for i in [1:n+1] do
    coords := coords.push (i, seq[i-1]!)
  return coords

def complement (coords : Array (Nat × Nat)) (n : Nat) : Array (Nat × Nat) := Id.run do
  let mut board : Array (Nat × Nat) := #[]
  for i in [1:n+1] do
    for j in [1:n+1] do
      if !coords.contains (i, j) then
        board := board.push (i, j)
  return board

def simple_case (n k : Nat) : Array (Nat × Nat) := Id.run do
  if k == n then
    let mut board := #[]
    for i in [1:n+1] do
      for j in [1:n+1] do
        board := board.push (i, j)
    return board
  else if k == n - 1 then
    let mut remove := #[(1, n), (n, 1)]
    for δ in [2:n] do
      remove := remove.push (δ, δ)
    return complement remove n
  else if k == n - 2 then
    if n % 2 == 0 then
      let mut remove := #[]
      for i in [1:n+1] do remove := remove.push (i, i)
      for i in [1:n+1] do remove := remove.push (i, n + 1 - i)
      return complement remove n
    else
      let mut remove := #[]
      for i in [1:n+1] do remove := remove.push (i, i)
      for i in [1:n+1] do remove := remove.push (i, n + 1 - i)
      let m := (n + 1) / 2
      let add := #[(m-1, m), (m+1, m), (m, m-1), (m, m+1)]
      let rem := #[(m-1, m-1), (m, m), (m+1, m+1)]
      let mut remove_new := #[]
      for p in remove do
        if !rem.contains p then
          remove_new := remove_new.push p
      for p in add do
        remove_new := remove_new.push p
      return complement remove_new n
  else
    return #[]

def mod_n (val : Int) (n : Nat) : Nat :=
  let m := val % (n : Int)
  let m := if m < 0 then m + (n : Int) else m
  m.toNat

def build_T1 (n k : Nat) : Array (Nat × Nat) := Id.run do
  let mut T1 := #[]
  let end1 := (n - k + 1) / 2
  for δ in [1:end1+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int)
    T1 := T1.push (δ, mod_n (col - 1) n + 1)
  let start2 := end1 + 1
  let end2 := end1 + n / 2
  for δ in [start2:end2+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int) - 1 - (n : Int)
    T1 := T1.push (δ, mod_n (col - 1) n + 1)
  let start3 := n - (k - 1) / 2 + 1
  for δ in [start3:n+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int) - 2 * (n : Int)
    T1 := T1.push (δ, mod_n (col - 1) n + 1)
  return T1

def build_T2 (n k : Nat) : Array (Nat × Nat) := Id.run do
  let mut T2 := #[]
  let end1 := (n - k + 1) / 2
  for δ in [1:end1+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int) - 1
    T2 := T2.push (δ, mod_n (col - 1) n + 1)
  let start2 := end1 + 1
  let end2 := n - (k - 1) / 2
  for δ in [start2:end2+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int) - (n : Int)
    T2 := T2.push (δ, mod_n (col - 1) n + 1)
  let start3 := n - (k - 1) / 2 + 1
  for δ in [start3:n+1] do
    let col := 2 * (δ : Int) - 1 + (k : Int) - 1 - 2 * (n : Int)
    T2 := T2.push (δ, mod_n (col - 1) n + 1)
  return T2

def construct_base (n k0 : Nat) : Array (Nat × Nat) := Id.run do
  if k0 == 2 then
    return F_fn n 2 0
  else if k0 == 3 then
    if n % 2 == 1 then
      return F_fn n 3 0
    else if n % 6 == 2 || n % 6 == 4 then
      return F_fn n 2 0 ++ build_T1 n 3
    else
      return F_fn n 2 0 ++ build_T2 n 3
  else if k0 == 4 then
    if n % 3 != 0 then
      return F_fn n 4 0
    else if n % 6 == 0 then
      return F_fn n 2 0 ++ build_T2 n 3 ++ build_T2 n 5
    else
      let mut T4 := #[]
      let end1 := (n - 3) / 2
      for δ in [1:end1+1] do
        let col := 2 * (δ : Int) + 2
        T4 := T4.push (δ, mod_n (col - 1) n + 1)
      let δ_mid := (n - 1) / 2
      T4 := T4.push (δ_mid, 2)
      let start3 := (n + 1) / 2
      let end3 := n - 2
      for δ in [start3:end3+1] do
        let col := 2 * (δ : Int) - 1 + 5 - (n : Int)
        T4 := T4.push (δ, mod_n (col - 1) n + 1)
      T4 := T4.push (n - 1, 1)
      T4 := T4.push (n, 3)
      return F_fn n 3 0 ++ T4
  else if k0 == 5 then
    if n % 2 == 1 then
      return F_fn n 5 0
    else if n % 6 == 0 || n % 6 == 2 then
      return F_fn n 4 0 ++ build_T1 n 5
    else
      return F_fn n 4 0 ++ build_T2 n 5
  else if k0 == 6 then
    return F_fn n 6 0
  else if k0 == 7 then
    if n % 2 == 1 && n % 3 != 0 then
      return F_fn n 7 0
    else if n % 6 == 0 || n % 6 == 4 then
      return F_fn n 6 0 ++ build_T1 n 7
    else if n % 6 == 2 then
      return F_fn n 6 0 ++ build_T2 n 7
    else
      let mut T5 := #[]
      let end1 := (n - 5) / 2
      for δ in [1:end1+1] do
        let col := 2 * (δ : Int) + 5
        T5 := T5.push (δ, mod_n (col - 1) n + 1)
      T5 := T5.push ((n - 3) / 2, 3)
      T5 := T5.push ((n - 1) / 2, 6)
      let start3 := (n + 1) / 2
      let end3 := n - 3
      for δ in [start3:end3+1] do
        let col := 2 * (δ : Int) - 1 + 8 - (n : Int)
        T5 := T5.push (δ, mod_n (col - 1) n + 1)
      T5 := T5.push (n - 2, 2)
      T5 := T5.push (n - 1, 4)
      T5 := T5.push (n, 5)
      return F_fn n 6 0 ++ T5
  else
    return #[]

def construct_generalized (n k : Nat) : Array (Nat × Nat) := Id.run do
  if k == 1 then
    return classic_n_queens n
  else if k == n || k == n - 1 || k == n - 2 then
    return simple_case n k
  else
    let k0 := 2 + (k - 2) % 6
    let t := (k - k0) / 6
    let base := construct_base n k0
    let mut coords := base
    for e in [0:t] do
      let s := k0 + 2 + 6 * e
      let s_mod := s % n
      coords := coords ++ F_fn n 6 s_mod
    return coords

def verify_board (coords : Array (Nat × Nat)) (n k : Nat) : IO Bool := do
  if coords.size != n * k then
    IO.println s!"Length mismatch: {coords.size} != {n * k}"
    return false

  let mut board : Array Nat := (List.replicate (n * n) 0).toArray
  for p in coords do
    let r := p.1
    let c := p.2
    let idx := (r - 1) * n + (c - 1)
    let val := board[idx]! + 1
    board := board.set! idx val
    if val > k then
      IO.println s!"Cell {r}, {c} has more than {k} queens"
      return false

  for r in [1:n+1] do
    let mut sum := 0
    for c in [1:n+1] do
      sum := sum + board[(r - 1) * n + (c - 1)]!
    if sum != k then
      IO.println s!"Row {r} sum is {sum}, expected {k}"
      return false

  for c in [1:n+1] do
    let mut sum := 0
    for r in [1:n+1] do
      sum := sum + board[(r - 1) * n + (c - 1)]!
    if sum != k then
      IO.println s!"Column {c} sum is {sum}, expected {k}"
      return false

  let mut diag1 : Array Nat := (List.replicate (2 * n + 1) 0).toArray
  for r in [1:n+1] do
    for c in [1:n+1] do
      let val := board[(r - 1) * n + (c - 1)]!
      if val > 0 then
        let d_idx := (c : Int) - (r : Int) + (n : Int)
        let idx := d_idx.toNat
        let cnt := diag1[idx]!
        diag1 := diag1.set! idx (cnt + val)

  for cnt in diag1 do
    if cnt > k then
      IO.println s!"Diag1 sum is {cnt}, expected <= {k}"
      return false

  let mut diag2 : Array Nat := (List.replicate (2 * n + 1) 0).toArray
  for r in [1:n+1] do
    for c in [1:n+1] do
      let val := board[(r - 1) * n + (c - 1)]!
      if val > 0 then
        let d_idx := c + r
        let cnt := diag2[d_idx]!
        diag2 := diag2.set! d_idx (cnt + val)

  for cnt in diag2 do
    if cnt > k then
      IO.println s!"Diag2 sum is {cnt}, expected <= {k}"
      return false

  return true

def main : IO Unit := do
  -- feel free to change the next two lines
  let N := 100
  for n in [4:N+1] do
    for k in [1:n+1] do
      let coords := construct_generalized n k
      let ok ← verify_board coords n k
      if ok then
        pure ()
      else
        IO.print s!" n = {n} k = {k} "
        IO.println "✗ FAILED"
        return ()
    IO.print "OK"
```
On my "not so fast" laptop

```bash
$ time lean --run FormalConjectures/Mathoverflow/nc_llm.lean
OK
real    1m2.908s
user    1m3.010s
sys     0m0.083s
```
